US06258824B1
16D. 4-(3,5-Dichloro-phenyl)-6-[(6-chloro-pyridin-3-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1H-quinolin-2-one
Following the same procedure as described in example 1F, [4-(3,5-dichloro-phenyl)-2-methoxy-quinolin-6-yl]-(6-chloro-pyridin-3-yl)-(3-methyl-3H-imidazol-4-yl)-methanol (886 mg, 1.68 mmol) was treated with HCl in aqueous THF to yield the title compound of 16D. It was directly used for the next reaction without further purification.

reactant | [4-(3,5-dichloro-phenyl)-2-methoxy-quinolin-6-yl]-(6-chloro-pyridin-3-yl)-(3-methyl-3H-imidazol-4-yl)-methanol | 1.68 mmol, 886 mg | ClC=1C=C(C=C(C1)Cl)C1=CC(=NC2=CC=C(C=C12)C(O)(C=1N(C=NC1)C)C=1C=NC(=CC1)Cl)OC | C26H19Cl3N4O2
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 4-(3,5-Dichloro-phenyl)-6-[(6-chloro-pyridin-3-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1H-quinolin-2-one | ClC=1C=C(C=C(C1)Cl)C1=CC(NC2=CC=C(C=C12)C(C=1N(C=NC1)C)(O)C=1C=NC(=CC1)Cl)=O | C25H17Cl3N4O2
